US07981918B2
(3-Hydroxy-cyclohexyl)-carbamic acid benzyl ester
Treat a mixture of 3-hydroxycyclohexyl amine (10 g, 86.96 mmol), potassium carbonate (18 g, 130 mmol), ethyl acetate (150 mL) and water (70 mL) with benzyl chloroformate (22.17 g, 130 mmol). Stir the reaction at room temperature for 12 hours. Separate the organic layer, dry the organic over sodium sulfate, filter and concentrate. Add diethyl ether to the residuer. Filter the resulting white precipitate and air dry to afford 19.1 g of the title compound (88%). MS (m/z): 250 (M+).

reactant | 3-hydroxycyclohexyl amine | 86.96 mmol, 10 g | OC1CC(CCC1)N | C6H13NO
reactant | potassium carbonate | 130 mmol, 18 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
reactant | benzyl chloroformate | 130 mmol, 22.17 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | water | 70 mL | O | H2O
product | (3-Hydroxy-cyclohexyl)-carbamic acid benzyl ester | 19.1 g, 88% | C(C1=CC=CC=C1)OC(NC1CC(CCC1)O)=O | C14H19NO3
